US05045552
1-Ethoxycarbonyl-2-{4-(3-methoxypropoxy)-3-methylpyridine-2-yl}methylsulfinylbenzimidazole
0.6 g of 1-ethoxycarbonyl-2-{4-(3-methoxypropoxy)-3-methylpyridine-2-yl}methylthiobenzimidazole was dissolved in 20 ml of dichloromethane to obtain a solution. 0.4 g of m-chloroperbenzoic acid was added to the solution at -45° C. After one hour, 0.3 g of triethylamine and 20 ml of a saturated aqueous solution of sodium hydrogencarbonate were added to the resulting mixture. The obtained mixture was stirred at a room temperature for 30 minutes. The dichloromethane layer was separated, washed with a saturated aqueous solution of sodium hydrogencarbonate twice, dried over magnesium sulfate and filtered. The filtrate was concentrated to obtain a residue. This residue was purified by silica gel column chromatography to obtain 0.21 g of the title compound as a yellow oil.

reactant | 1-ethoxycarbonyl-2-{4-(3-methoxypropoxy)-3-methylpyridine-2-yl}methylthiobenzimidazole | 0.6 g | C(C)OC(=O)N1C(=NC2=C1C=CC=C2)SCC2=NC=CC(=C2C)OCCCOC | C21H25N3O4S
reactant | m-chloroperbenzoic acid | 0.4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | triethylamine | 0.3 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-Ethoxycarbonyl-2-{4-(3-methoxypropoxy)-3-methylpyridine-2-yl}methylsulfinylbenzimidazole | 0.21 g | C(C)OC(=O)N1C(=NC2=C1C=CC=C2)S(=O)CC2=NC=CC(=C2C)OCCCOC | C21H25N3O5S
